US08084448B2
D. 2-(4-{2-Acetylamino-3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionylamino}-butoxy)-6-hydroxybenzoic Acid Methyl Ester
A solution of 2-(4-{(E)-2-acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acryloylamino}-butoxy)-6-hydroxybenzoic acid methyl ester (300 mg) in 16 mL of EtOH/HOAc (1:1) is hydrogenated 1 atm over 10% Pd/C (70 mg) for 4 h. The catalyst is filtered, the solvent is removed under reduced pressure. The residue is purified by reverse phase HPLC and lyophilization to give the title compound as a white solid. This is converted to its potassium salt by addition of 1 equivalent of KHCO3: (M−1)−=577. HPLC retention time: 0-86 min. (Method A).

reactant | 2-(4-{(E)-2-acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acryloylamino}-butoxy)-6-hydroxybenzoic acid methyl ester | 300 mg | COC(C1=C(C=CC=C1O)OCCCCNC(/C(=C\C1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)/NC(C)=O)=O)=O | C32H34N4O10S
solvent | EtOH HOAc | 16 mL | CCO.CC(=O)O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 2-(4-{2-Acetylamino-3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionylamino}-butoxy)-6-hydroxybenzoic Acid Methyl Ester | COC(C1=C(C=CC=C1O)OCCCCNC(C(CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O)NC(C)=O)=O)=O | C25H30N4O10S
